US04851418
[R-(R*,S*)]-[1-Phenylmethyl-2-oxo-2-[(3-pyrrolidinyl)amino]ethyl]carbamic acid, 1,1-dimethylethyl ester
A solution of 21.2 g (50 mmol) of [R-(R*,S*)]-[1-phenylmethyl-2-oxo-2-[(1-(phenylmethyl)-3-pyrrolidinyl)amino]ethyl]carbamic acid, 1,1-dimethylethyl ester in 200 ml of methanol was treated with 1.0 g of 20% palladium on carbon and shaken in a hydrogen atmosphere at pressures of 32.5-53.4 psi and temperatures of 23.0°-27.5° for 18 hours. The catalyst was removed by filtration and the solvent was removed in vacuo to give 16.3 g of the title compound.

reactant | [1-phenylmethyl-2-oxo-2-[(1-(phenylmethyl)-3-pyrrolidinyl)amino]ethyl]carbamic acid, 1,1-dimethylethyl ester | C1(=CC=CC=C1)CC(C(NC1CN(CC1)CC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C25H33N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | [1-Phenylmethyl-2-oxo-2-[(3-pyrrolidinyl)amino]ethyl]carbamic acid, 1,1-dimethylethyl ester | 16.3 g | C1(=CC=CC=C1)CC(C(NC1CNCC1)=O)NC(OC(C)(C)C)=O | C18H27N3O3
